US04906768
An aliquot (0.5 mole) of the resultinge compound was reacted under stirring for 1 hour together with 0.005 mole of palladium acetate, 0.02 mole of tripenylphosphine, 1.5 moles of triethylamine formate, 20 moles of ethanol and 12 moles of water. After the reaction, ethanol was evaporated from the reaction mixture under reduced pressure. Ten moles of methylene chloride was added to the residue, and the mixture was washed with water. The solvent was evaporated, and the residue was purified by silica gel column chromatography to give 2-methyl-5-hydroxyimino-2-heptene in a yield of 96 mole %. A quantitative analysis of the reaction mixture by gas chromatography showed that the reaction proceeded quantitatively.

reactant | tripenylphosphine | 0.02 mole | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine formate | 1.5 moles | C(=O)O.C(C)N(CC)CC
reactant | water | 12 moles | O | H2O
reactant | methylene chloride | Ten moles | C(Cl)Cl | CH2Cl2
reactant | ethanol | C(C)O | C2H6O
reactant | ethanol | 20 moles | C(C)O | C2H6O
catalyst | palladium acetate | 0.005 mole | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-methyl-5-hydroxyimino-2-heptene | CC(C)=CCC(CC)=NO | C8H15NO
